US04698340
To a solution of sodium cyanide (4.8 g) in water (50 ml) was added a suspension of 5-bromomethyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine (30 g) in a mixture of ethanol (180 ml) and tetrahydrofuran (180 ml), and the mixture was refluxed for 2 hours. The reaction mixture was poured into a mixture of ice-water (200 ml) and diethyl ether (200 ml). The precipitate was filtered, washed with water, dried in vacuo to give 5-cyanomethyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine (22.5 g).

reactant | sodium cyanide | 4.8 g | [C-]#N.[Na+]
reactant | 5-bromomethyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine | 30 g | BrCC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H14BrN3O2
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 5-cyanomethyl-6-methyl-2-phenyl-4-(3-nitrophenyl)pyrimidine | 22.5 g | C(#N)CC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H14N4O2
